US04088491
Methyl 2-hexadecylaminopropionate
66.4 g of hexadecylamine are dissolved in 250 ml of methanol. 27 ml of methyl acrylate are added and the mixture is left to stand overnight. After removal of the solvent by distillation the residue is recrystallised from ethyl acetate.

reactant | hexadecylamine | 66.4 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | methyl acrylate | 27 ml | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 250 ml | CO | CH4O
product | Methyl 2-hexadecylaminopropionate | C(CCCCCCCCCCCCCCC)NC(C(=O)OC)C | C20H41NO2
